US06852755B1
(ii) 3-trifluoromethyl-4-[bis(2-hydroxyethyl) amino]benzoic acid
A solution of the 3-trifluoromethyl-4-[bis(2-hydroxyethyl) amino]benzonitrile and NaOH (0.8 g, 0.02 mol) in aqueous ethanol (10 ml, 50%) was refluxed for 2 hours. The solution was partitioned between EtOAc (120 ml) and HCl (50 ml, 0.4 M), the aqueous layer washed with EtOAc (3×25 ml), the combined organic layers dried (MgSO4) and evaporated to dryness. The residue was recrystallized from EtOAc to give 0.39 g of white crystals.

reactant | 3-trifluoromethyl-4-[bis(2-hydroxyethyl) amino]benzonitrile | FC(C=1C=C(C#N)C=CC1N(CCO)CCO)(F)F | C12H13F3N2O2
reactant | NaOH | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 3-trifluoromethyl-4-[bis(2-hydroxyethyl) amino]benzoic acid | 0.39 g | FC(C=1C=C(C(=O)O)C=CC1N(CCO)CCO)(F)F | C12H14F3NO4
